US05789623
Preparation of 2'-hydroxy-2-diphenylphosphinobiphenyl
12.3 g (52.4 mmol) of 6-chloro-6H-dibenz[c,e][1,2]oxa-phosphorine in 80 ml of anhydrous tetrahydrofuran are introduced, in an argon atmosphere with stirring, and 66 ml of a 2M solution of phenylmagnesium bromide in tetrahydrofuran are added dropwise. The temperature increases in the course of this from 25° to 40° C. The mixture is then stirred for 4 hours at 65° C., cooled to room temperature and 100 ml of water and 100 ml of ethyl acetate are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 19.0 g of colorless oil are obtained. By crystallization with methanol/water, 10:1, 18.1 g (98%) of colorless crystals having melting point 123° to 124° C. are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]oxa-phosphorine | 52.4 mmol, 12.3 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2'-hydroxy-2-diphenylphosphinobiphenyl | 19.0 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19OP
